US08791303B2
Preparation of 4-[1-Cycloheptyl-methylidene]-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione
To a solution of 5-(Cycloheptyl-hydroxy-methyl)-3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone (100 mg, 0.28 mmol) in acetone (4 ml) in a 10 ml vial was added 2M HCl (4 ml). The reaction was capped and heated to 120 C for 30 minutes under microwave irradiation. The reaction was diluted with H2O (20 ml) and extracted with EtOAc (3×15 ml). The combined organic extracts were washed with brine (10 ml), dried over MgSO4, filtered and evaporated to dryness under reduced pressure to give a brown oil (88 mg). The crude material was purified by flash chromatography over SiO2 using a 100% isohexane to 100% EtOAc gradient to give the desired product as a colourless oil (62 mg).

reactant | 5-(Cycloheptyl-hydroxy-methyl)-3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone | 0.28 mmol, 100 mg | C1(CCCCCC1)C(C1CC(=C(C1=O)C1=C(C=C(C=C1C)C)C)OC)O | C23H32O3
reactant | HCl | 2M, 4 ml | Cl | ClH
solvent | acetone | 4 ml | CC(=O)C | C3H6O
solvent | H2O | 20 ml | O | H2O
product | 4-[1-Cycloheptyl-methylidene]-2-(2,4,6-trimethyl-phenyl)-cyclopentane-1,3-dione | 88 mg | C1(CCCCCC1)C=C1C(C(C(C1)=O)C1=C(C=C(C=C1C)C)C)=O | C22H28O2
